US07361659B2
To a stirred solution of diethanolamine (1.16 g, 11 mmol) in water (4 ml) was added at room temperature magnesium oxide (2.22 g, 55 mmol) and THF (16 ml). The suspension was stirred at room temperature for 30 min and a solution of 5-chloro-4-nitrothiophene-2-sulfonyl chloride (3.46 g, 13.2 mmol) in THF (4 ml) was added. The light yellow suspension was stirred at room temperature for 1 h and, after filtration on Dicalit, evaporated. Water (60 ml) was added and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine (70 ml), dried (MgSO4) and evaporated. The crude product was further purified by flash chromatography on silica gel (heptane/ethyl acetate) to yield 5-chloro-4-nitro-thiophene-2-sulfonic acid bis-(2-hydroxy-ethyl)-amide (0.48 g, 13%) as a yellow solid. MS (ISP) 331.2 [(M+H)+], mp 113° C.

reactant | diethanolamine | 11 mmol, 1.16 g | N(CCO)CCO | C4H11NO2
reactant | magnesium oxide | 55 mmol, 2.22 g | [O-2].[Mg+2]
reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 13.2 mmol, 3.46 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
solvent | water | 4 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 5-chloro-4-nitro-thiophene-2-sulfonic acid bis-(2-hydroxy-ethyl)-amide | 0.48 g, 13% | OCCN(S(=O)(=O)C=1SC(=C(C1)[N+](=O)[O-])Cl)CCO | C8H11ClN2O6S2
